US04752645
(B) 7-Chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one
To a suspension of 50% sodium hydride (48 mg; 1 mmole) in dimethylformamide (5 ml) cooled at 0°-5° C. was added dropwise a solution of 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (102 mg; 0.25 mmole) in dimethylformamide (1 ml). After stirring at 0°-5° C. for 20 minutes, allyl bromide (360 μl ; 4 mmole) was added dropwise, and the reaction mixture was allowed to stir at 0° C. to room temperature for two hours. Excess sodium hydride was destroyed with water, and the mixture was extracted with ether. The aqueous layer was extracted with ether (two times), and the combined organic layers were dried (magnesium sulfate) and concentrated. The crude residue was triturated with hexane (20 ml) to obtain 93 mg of white, crystalline title compound. [The mother liquor contained additional product].

reactant | sodium hydride | 1 mmole, 48 mg | [H-].[Na+]
reactant | 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 0.25 mmole, 102 mg | ClC=1C=CC2=C(CC(C(C(N2COC)=O)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C21H22ClNO5
reactant | allyl bromide | 4 mmole, 360 μl | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(4-methoxyphenyl)-3-(2-propenyl)-2H-1-benzazepin-2-one | ClC=1C=CC2=C(CC(C(C(N2COC)=O)(CC=C)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C24H26ClNO5
